US06747022B2
Preparation of methyl 2-(4-chloro-3-nitrophenyl)-2-methylpropionate
After dropwise addition of 40.0 g of concentrated nitric acid to 90.7 g of concentrated sulfuric acid under ice cooling, 62.3 g of methyl 2-(4-chlorophenyl)-2-methylpropionate was added dropwise. The resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into ice water, followed by extraction with ethyl acetate. The organic layer was washed successively with water and brine, dried over anhydrous sodium sulfate and evaporated under reduced pressure, whereby 75.5 g of the title compound was obtained.

reactant | nitric acid | 40.0 g | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 90.7 g | S(O)(O)(=O)=O | H2O4S
reactant | methyl 2-(4-chlorophenyl)-2-methylpropionate | 62.3 g | ClC1=CC=C(C=C1)C(C(=O)OC)(C)C | C11H13ClO2
product | methyl 2-(4-chloro-3-nitrophenyl)-2-methylpropionate | 75.5 g | ClC1=C(C=C(C=C1)C(C(=O)OC)(C)C)[N+](=O)[O-] | C11H12ClNO4
